US07265144B2
Preparation of 2-[(3-tert-butyl-1-methyl-1H-pyrazol-5-yl)amino]-5-methoxybenzoic acid
A mixture of 2-bromo-5-methoxy benzoic acid (2.26 g, 9.79 mmol), potassium carbonate (1.49 g, 10.8 mmol), 5-amino-3-tert-butyl-1-methylpyrazole (1.50 g, 9.79 mmol), and copper (II) acetate (35 mg, 0.20 mmol) in DMF (20 mL) was heated (150° C.) in a sealed tube for 16 h. After cooling, the reaction mixture was diluted with water (10 mL) and acidified to pH=4 with acetic acid. This mixture was extracted with dichloromethane (3×20 mL), and then the combined organic extracts were washed with water (2×30 mL), dried over Na2SO4, filtered, and concentrated under reduced pressure. HPLC purification of the residue (YMC propack C18 column, 150×20 mm ID, 30%-80% acetonitrile in water gradient) afforded the title compound (973 mg, 31%) as a pale yellow solid. 1H NMR (300 MHz, DMSO-d6) δ 13.22 (br s, 1H), 9.24 (br s, 1H), 7.38 (d, 1H), 7.10 (dd, 1H), 6.80 (d, 1H), 5.95 (s, 1H), 3.70 (s, 3H), 3.55 (s, 3H), 1.21 (s, 9H); ES-MS m/z 304.2 (MH+), HPLC RT (min) 2.58.

reactant | 2-bromo-5-methoxy benzoic acid | 9.79 mmol, 2.26 g | BrC1=C(C(=O)O)C=C(C=C1)OC | C8H7BrO3
reactant | potassium carbonate | 10.8 mmol, 1.49 g | C([O-])([O-])=O.[K+].[K+]
reactant | 5-amino-3-tert-butyl-1-methylpyrazole | 9.79 mmol, 1.50 g | NC1=CC(=NN1C)C(C)(C)C | C8H15N3
reactant | acetic acid | C(C)(=O)O | C2H4O2
solvent | DMF | 20 mL | CN(C)C=O | C3H7NO
solvent | water | 10 mL | O | H2O
catalyst | copper (II) acetate | 0.20 mmol, 35 mg | C(C)(=O)[O-].[Cu+2].C(C)(=O)[O-]
product | 2-[(3-tert-butyl-1-methyl-1H-pyrazol-5-yl)amino]-5-methoxybenzoic acid | 973 mg, 31% | C(C)(C)(C)C1=NN(C(=C1)NC1=C(C(=O)O)C=C(C=C1)OC)C | C16H21N3O3
